US07405219B2
3-(3-Aminomethylbenzyl)-7-(1H-pyrazol-3-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (example 101)
A stirred solution of the 7-(1-(2-(trimethylsilyl)ethoxymethyl)-1H-pyrazol-5-yl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (330 mg, 1 mmol) in dry DMF (5 mL) was treated with NaH (40 mg, 60% in oil, 1 mmol), stirred for 15 min, treated with tert-butyl N-(3-(bromomethyl)benzyl)carbamate (300 mg, 1 mmol) and stirred for 1 h. The mixture was partitioned between EtOAc (20 mL) and H2O (20 mL), the organic phase was dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; iso-hexane:EtOAc (1:1)]. The resulting yellow syrup was dissolved in MeOH (3 mL), treated with HCl (2 mL, 4-M in dioxane), stirred for 17 h and the resulting solid filtered to give the title compound (258 mg, 80%) as a cream solid.

reactant | 7-(1-(2-(trimethylsilyl)ethoxymethyl)-1H-pyrazol-5-yl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 1 mmol, 330 mg | C[Si](CCOCN1N=CC=C1C=1C2=C(N=C(N1)N)N=NN2)(C)C | C13H20N8OSi
reactant | NaH | 1 mmol, 40 mg | [H-].[Na+]
reactant | tert-butyl N-(3-(bromomethyl)benzyl)carbamate | 1 mmol, 300 mg | BrCC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C13H18BrNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(3-Aminomethylbenzyl)-7-(1H-pyrazol-3-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 258 mg, 80% | NCC=1C=C(CN2N=NC3=C2N=C(N=C3C3=NNC=C3)N)C=CC1 | C15H15N9
